US04101661
From 5.0 g. of 6-[4-(methylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid in 250 ml. of tetrahydrofuran, 2.26 ml. of triethylamine, 2.05 ml. of trimethylsilyl chloride and 2.33 ml. of thionyl chloride, following the procedure of a) above, there is obtained 6-[4-(methylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride.

reactant | 6-[4-(methylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinic acid | CNS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C13H12N2O5S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | trimethylsilyl chloride | C[Si](C)(C)Cl | C3H9ClSi
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-[4-(methylaminosulfonyl)phenyl]-1,2-dihydro-2-oxonicotinyl chloride | CNS(=O)(=O)C1=CC=C(C=C1)C=1NC(C(CCl)=CC1)=O | C13H13ClN2O3S
